US07041687B2
(3,4-Dichloro-phenyl)-succinic acid 4-tert-butyl ester 1-methyl ester:
2.5M nButyllithium in hexanes (37.5 ml, 0.094 mol) was added, in a dropwise fashion, to a solution of diisopropylamine (14.45 ml, 0.103 mol) in tetrahydrofuran (300 ml) at 0° C. The solution was stirred at 0° C. for 20 minutes. The mixture was then cooled to −70° C. and a solution of (3,4-dichloro-phenyl)-acetic acid methyl ester (20.54 g, 0.094 mol) in tetrahydrofuran (50 ml) was added dropwise via cannula. The reaction mixture was stirred at −70° C. for 30 minutes. After this time, tert-butyl bromoacetate (45.42 ml, 0.281 mol) was added in a dropwise fashion. The cooling bath was removed and the reaction mixture was allowed to warm up to room temperature. The reaction mixture was quenched with a saturated solution of NH4Cl (100 ml). THF was partially removed in vacuo and the mixture was extracted with EtOAc (3×200 ml). The combined organic extrats were washed with brine, dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by silica gel column chromatography using as eluent petrol: ether (9:1) to give the title compound in 92% yield.). 1H NMR (400 MHz, DMSO-d6) δ 1.34 (9H, s), 2.65 (1H, dd), 2.98 (1H, dd), 3.60 (3H, s), 4.08 (1H, m), 7.31 (1H, m), 7.58–7.62 (2H, m); MS (ES+): m/e=333.2 (5%); MS (ES−): m/e=331.2 (100%), 333.2 (65%), 335.2 (10%).

reactant | diisopropylamine | 0.103 mol, 14.45 ml | C(C)(C)NC(C)C | C6H15N
reactant | (3,4-dichloro-phenyl)-acetic acid methyl ester | 0.094 mol, 20.54 g | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | tert-butyl bromoacetate | 0.281 mol, 45.42 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (3,4-Dichloro-phenyl)-succinic acid 4-tert-butyl ester 1-methyl ester | 92% yield | COC(C(CC(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl)=O | C15H18Cl2O4
